US20010026789A1
3-chloropropyltrimethylsilane (33.14 g, 0.22 mol) was added dropwise over 10 minutes to a mixture of 4-hydroxybenzaldehyde (24.4 g, 0.2 mol) and potassium carbonate (30.4 g, 0.22 mol) in 150 ml of dry DMF maintained at 120° C. under nitrogen. The mixture was maintained for 2 hours, 30 minutes, at 120°-130° C. The reaction mixture was cooled and poured into ice-cold water. The aqueous phase was extracted 3 times with dichloromethane. The organic phases were dried over sodium sulfate and concentrated under vacuum. After distillation under vacuum (0.2 mmHg), 40.5 g (yield: 86%) of 4-(3-trimethylsilanylpropyloxy) benzaldehyde were obtained in the form of a colorless oil distilling at 110-114° C. and employed without further purification in the following step.

reactant | 3-chloropropyltrimethylsilane | 0.22 mol, 33.14 g | ClCCC[Si](C)(C)C | C6H15ClSi
reactant | 4-hydroxybenzaldehyde | 0.2 mol, 24.4 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | potassium carbonate | 0.22 mol, 30.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 ml | CN(C)C=O | C3H7NO
product | 4-(3-trimethylsilanylpropyloxy) benzaldehyde | 40.5 g, yield: 86% | C[Si](CCCOC1=CC=C(C=O)C=C1)(C)C | C13H20O2Si
